US05728888
Preparation of 2,2',4,4'-tetrahydroxybenzophenone
440 g (3.30 mol) of AlCl3 were stirred into 120 g (1.64 mol) of dimethylformamide in such a way that the temperature remained below 160° C. After cooling to 30° C., 60.5 g (0.20 mol) of 2,2',4,4'-tetramethoxybenzophenone were introduced into the mixture, which was easily stirrable. The mixture was stirred at about 50°-52° C. for 4.5 hours and then added to 1.8 l of water to which 3 g of active carbon had been added. The hydrolyzate was filtered at about 95° C., and then 65 g of concentrated hydrochloric acid were added to the filtrate. The precipitate was filtered off with suction at 25° C., washed with water and dried at 125° C. under reduced pressure.

reactant | AlCl3 | 3.30 mol, 440 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | dimethylformamide | 1.64 mol, 120 g | CN(C=O)C | C3H7NO
reactant | 2,2',4,4'-tetramethoxybenzophenone | 0.20 mol, 60.5 g | COC1=C(C(=O)C2=C(C=C(C=C2)OC)OC)C=CC(=C1)OC | C17H18O5
solvent | water | 1.8 l | O | H2O
product | 2,2',4,4'-tetrahydroxybenzophenone | OC1=C(C(=O)C2=C(C=C(C=C2)O)O)C=CC(=C1)O | C13H10O5
